US07687535B2
iv) 3-[(2-chlorophenyl)thio]2-methyl-5-[(methylsulfonyl)amino]-1H-indole-1-acetic acid, ethyl ester
2-methyl-5-[(methylsulfonyl)amino]-1H-indole-1-acetic acid, ethyl ester (0.31 g) and 2-chlorobenzenethiol (0.27 g) were dissolved in dimethyl formamide (3 ml) followed by addition of iodine 0.30 g) for the whole to be stirred at room temperature overnight. The mixture was poured into aqueous sodium thiosulphate (50 ml) and the resultant white precipitate collected by filtration and rinsed with water, dried under vacuum to be recrystallised from ethanol. The crystals were harvested and rinsed with isohexane and dried under vacuum to give the sub-title compound (0.20 g)

reactant | 2-methyl-5-[(methylsulfonyl)amino]-1H-indole-1-acetic acid, ethyl ester | 0.31 g | CC=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C)CC(=O)OCC | C14H18N2O4S
reactant | 2-chlorobenzenethiol | 0.27 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | iodine | 0.30 g | II | I2
reactant | sodium thiosulphate | 50 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-[(2-chlorophenyl)thio]2-methyl-5-[(methylsulfonyl)amino]-1H-indole-1-acetic acid, ethyl ester | 0.20 g | ClC1=C(C=CC=C1)SC1=C(N(C2=CC=C(C=C12)NS(=O)(=O)C)CC(=O)OCC)C | C20H21ClN2O4S2
